// Generated for: spectre
// Generated on: Sep  2 15:00:43 2024
// Design library name: LDO_Haoqiang
// Design cell name: tb_Load_Reg
// Design view name: schematic
simulator lang=spectre
global 0
parameters iload=1m cpp=2p edge=10n ibias=1u iload1=1m iload2=50m
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_Haoqiang
// Cell name: bonding_wire
// View name: schematic
subckt bonding_wire VIN VOUT
    L0 (VIN net5) inductor l=1n
    R0 (net5 VOUT) resistor r=50m
ends bonding_wire
// End of subcircuit definition.

// Library name: LDO_Haoqiang
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core IBIAS VBODY VF1 VF2 VFB_FFRC VH VIN VOUT VOUT_MIR VREF \
        VSET VSET_FB VSS
    M40 (VIN VG net0102 net0102) nch_lvt_mac l=60n w=120.0n multi=1 nf=1 \
        sigma=1 sd=350.0n ad=3.45e-14 as=3.45e-14 pd=800n ps=800n \
        nrd=1.45833 nrs=1.45833 sa=100n sb=100n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M0 (VIN VG VOUT VBODY) nch_lvt_mac l=60n w=150.00000u multi=4 nf=15 \
        sigma=1 sd=200n ad=1.575e-11 as=1.575e-11 pd=163.15u ps=163.15u \
        nrd=0.000666667 nrs=0.000666667 sa=175.00n sb=175.00n sca=0 scb=0 \
        scc=0 mismatchflag=1
    M47 (V2_FFRC net077 VIN VIN) pch_mac l=1u w=500n multi=1 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M46 (net077 net077 VIN VIN) pch_mac l=1u w=500n multi=4 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M42 (net068 net068 VOUT VOUT) pch_mac l=1u w=500n multi=1 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M41 (net069 net068 net0102 net0102) pch_mac l=1u w=3u multi=1 nf=6 \
        sigma=1 sd=200n ad=3e-13 as=3.75e-13 pd=4.2u ps=5.5u nrd=0.0333333 \
        nrs=0.0333333 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M27 (net066 net066 VIN VIN) pch_mac l=1u w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M26 (VG_FFRC net066 VIN VIN) pch_mac l=1u w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M25 (V1_FFRC VG_FFRC VIN VIN) pch_mac l=400n w=450.0n multi=1 nf=1 \
        sigma=1 sd=200n ad=7.875e-14 as=7.875e-14 pd=1.25u ps=1.25u \
        nrd=0.222222 nrs=0.222222 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M24 (V2_FFRC V2_FFRC VIN VIN) pch_mac l=1.4u w=150.0n multi=1 nf=1 \
        sigma=1 sd=200n ad=2.625e-14 as=2.625e-14 pd=650.0n ps=650.0n \
        nrd=0.666667 nrs=0.666667 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M23 (V3_SSF V2_FFRC VBODY VBODY) pch_mac l=100n w=600n multi=1 nf=3 \
        sigma=1 sd=200n ad=7.5e-14 as=7.5e-14 pd=1.55u ps=1.55u \
        nrd=0.166667 nrs=0.166667 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M19 (VOUT_MIR VG_VSET VIN VIN) pch_mac l=350.0n w=200n multi=2 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750.0n ps=750.0n nrd=0.5 \
        nrs=0.5 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M22 (VBODY net090 VIN VIN) pch_mac l=1u w=500n multi=5 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (VG_VSET net054 VIN VIN) pch_mac l=500n w=500n multi=1 nf=1 \
        sigma=1 sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 \
        nrs=0.2 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net054 net054 VIN VIN) pch_mac l=500n w=500n multi=1 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (VSET VSET VOUT_MIR VOUT_MIR) pch_mac l=300n w=300n multi=1 nf=1 \
        sigma=1 sd=200n ad=5.25e-14 as=5.25e-14 pd=950.0n ps=950.0n \
        nrd=0.333333 nrs=0.333333 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M21 (net090 net090 VIN VIN) pch_mac l=1u w=500n multi=1 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (VF1 VSET VOUT VOUT) pch_mac l=300n w=300n multi=4 nf=1 sigma=1 \
        sd=200n ad=5.25e-14 as=5.25e-14 pd=950.0n ps=950.0n nrd=0.333333 \
        nrs=0.333333 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M36 (net092 IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M35 (net067 IB_FFRC VSS VSS) nch_25_mac l=1u w=400n multi=2 nf=1 \
        sigma=1 sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u \
        nrd=0.3875 nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M34 (net090 IB_FFRC VSS VSS) nch_25_mac l=1u w=400n multi=2 nf=1 \
        sigma=1 sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u \
        nrd=0.3875 nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M13 (V3_SSF IB_FFRC VSS VSS) nch_25_mac l=1u w=400n multi=5 nf=1 \
        sigma=1 sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u \
        nrd=0.3875 nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M33 (IB_FFRC IB_FFRC VSS VSS) nch_25_mac l=1u w=400n multi=1 nf=1 \
        sigma=1 sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u \
        nrd=0.3875 nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M32 (VG_FFRC VFB_FFRC net067 VSS) nch_25_mac l=2u w=800n multi=2 nf=1 \
        sigma=1 sd=310.0n ad=1.84e-13 as=1.84e-13 pd=2.06u ps=2.06u \
        nrd=0.19375 nrs=0.19375 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M31 (net066 VREF net067 VSS) nch_25_mac l=2u w=800n multi=2 nf=1 \
        sigma=1 sd=310.0n ad=1.84e-13 as=1.84e-13 pd=2.06u ps=2.06u \
        nrd=0.19375 nrs=0.19375 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M20 (net053 IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=2 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M18 (VSET IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (IBIAS IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net25 IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (VF3 VREF VF2 VSS) nch_25_mac l=280.0n w=700n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=1.61e-13 as=1.61e-13 pd=1.86u ps=1.86u nrd=0.221429 \
        nrs=0.221429 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (VF2 IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=4 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (VG VF2 VSS VSS) nch_25_mac l=280.0n w=700n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=1.61e-13 as=1.61e-13 pd=1.86u ps=1.86u nrd=0.221429 \
        nrs=0.221429 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (VG IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=2 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (VF1 IBIAS VSS VSS) nch_25_mac l=1u w=400n multi=4 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M38 (IB_FFRC net092 VIN VIN) pch_25_mac l=500n w=500n multi=1 nf=1 \
        sigma=1 sd=310.0n ad=1.15e-13 as=1.15e-13 pd=1.46u ps=1.46u \
        nrd=0.31 nrs=0.31 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M37 (net092 net092 VIN VIN) pch_25_mac l=500n w=500n multi=1 nf=1 \
        sigma=1 sd=310.0n ad=1.15e-13 as=1.15e-13 pd=1.46u ps=1.46u \
        nrd=0.31 nrs=0.31 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M9 (net25 net25 VH VH) pch_25_mac l=500n w=400n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (VG VF3 VH VH) pch_25_mac l=280.0n w=400n multi=1 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (VF3 net25 VH VH) pch_25_mac l=500n w=400n multi=4 nf=1 sigma=1 \
        sd=310.0n ad=9.2e-14 as=9.2e-14 pd=1.26u ps=1.26u nrd=0.3875 \
        nrs=0.3875 sa=230.0n sb=230.0n sca=0 scb=0 scc=0 mismatchflag=1
    R0 (VG net43) resistor r=2K
    C8 (V2_FFRC VSS) capacitor c=5f
    C4 (VG_FFRC VSS) capacitor c=6p
    C2 (VOUT_MIR VSS) capacitor c=5p
    C3 (VSET VSS) capacitor c=1p
    C0 (net43 VSS) capacitor c=4p
    M43 (net068 net069 VSS VSS) nch_mac l=1u w=500n multi=1 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M44 (net069 net069 VSS VSS) nch_mac l=1u w=500n multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M30 (V1_FFRC V1_FFRC VSS VSS) nch_mac l=400n w=300n multi=1 nf=1 \
        sigma=1 sd=200n ad=5.25e-14 as=5.25e-14 pd=950.0n ps=950.0n \
        nrd=0.333333 nrs=0.333333 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M29 (V2_FFRC V1_FFRC VSS VSS) nch_mac l=400n w=300n multi=1 nf=1 \
        sigma=1 sd=200n ad=5.25e-14 as=5.25e-14 pd=950.0n ps=950.0n \
        nrd=0.333333 nrs=0.333333 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M28 (VBODY V3_SSF VSS VSS) nch_mac l=60n w=300n multi=1 nf=1 sigma=1 \
        sd=200n ad=5.25e-14 as=5.25e-14 pd=950.0n ps=950.0n nrd=0.333333 \
        nrs=0.333333 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M17 (VG_VSET VREF net053 VSS) nch_mac l=800n w=400n multi=1 nf=1 \
        sigma=1 sd=200n ad=7e-14 as=7e-14 pd=1.15u ps=1.15u nrd=0.25 \
        nrs=0.25 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (net054 VSET_FB net053 VSS) nch_mac l=800n w=400n multi=1 nf=1 \
        sigma=1 sd=200n ad=7e-14 as=7e-14 pd=1.15u ps=1.15u nrd=0.25 \
        nrs=0.25 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M45 (net077 net069 VSS VSS) nch_mac l=1u w=500n multi=1 nf=1 sigma=1 \
        sd=200n ad=8.75e-14 as=8.75e-14 pd=1.35u ps=1.35u nrd=0.2 nrs=0.2 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    C1 (VIN V1_FFRC V1_FFRC) crtmom nv=20 nh=20 w=100n s=100n stm=(3) \
        spm=(5) mf=1 mismatchflag=0
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_Haoqiang
// Cell name: probe
// View name: schematic
subckt probe VIN VSS
    C0 (VIN VSS) capacitor c=10p
    R0 (VIN VSS) resistor r=1M
ends probe
// End of subcircuit definition.

// Library name: LDO_Haoqiang
// Cell name: tb_Load_Reg
// View name: schematic
I5 (VOUT_IS VOUT_OS) bonding_wire
V4 (VSS 0) vsource dc=0 type=dc
V3 (VH VSS) vsource dc=2 type=dc
V1 (VREF VSS) vsource dc=1 type=dc
V0 (VIN VSS) vsource dc=1.2 type=dc
I12 (VOUT_IS VSS) isource dc=iload type=dc
I2 (VIN net6) isource dc=ibias type=dc
R0 (net014 VOUT_IS) resistor r=0
C0 (VOUT_IS VSS) capacitor c=cpp
I10 (net6 VBODY VFB_MIAN VFB_MIAN VBODY VH VIN net014 VFB_VSET VREF VSET \
        VFB_VSET VSS) LDO_Core
I6 (VOUT_OS VSS) probe
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=iload start=1m stop=50m oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save R0:1 
saveOptions options save=allpub
